US20010036946A1
c) 1-(1,1-dimethylethoxycarbonyl)-4-(1-cyclohexyl-4-piperidinyl) piperazine
Prepared analogously to Example A19a) from 1-(1,1-dimethylethoxycarbonyl)-4-(4-piperidinyl)piperazine and cyclohexanone in a yield of 99% of theory. Colourless, highly viscous oil. MS: M+=251

reactant | 1-(1,1-dimethylethoxycarbonyl)-4-(4-piperidinyl)piperazine | CC(C)(OC(=O)N1CCN(CC1)C1CCNCC1)C | C14H27N3O2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
product | 1-(1,1-dimethylethoxycarbonyl)-4-(1-cyclohexyl-4-piperidinyl) piperazine | yield of 99% | CC(C)(OC(=O)N1CCN(CC1)C1CCN(CC1)C1CCCCC1)C | C20H37N3O2
